Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Back pain

 
Major Surgical or Invasive Procedure:
___: T9-T10 laminectomy, T6-T12 Fusion
___: Trach & PEG
___: Bronchoscopy
___: Bronchoscopy

 
History of Present Illness:
___ is a ___ year old male with a history of prostate cancer and 
post-polio syndrome who presented to ___ after a 
fall today. He walks with a walker at baseline and was trying to 
get into a chair when he fell and landed on his back. He did 
strike his head but denies loss of consciousness. He had 
immediate pain ___ his back. He denies leg pain, numbness, 
tingling, or weakness. He states he has occasional urinary 
incontinence at baseline. Workup at the outside hospital 
included a CT chest that showed a T10 chance fracture so the 
patient was transferred to ___ for further evaluation and 
treatment. 

 
Past Medical History:
High cholesterol, BPH, depression, pneumonia 
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
==============
ON ADMISSION: 
==============
O: T: 97.8  BP: 167/78 HR: 81 R 16 O2Sats 97% RA
Gen: WD/WN, comfortable, NAD.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R     5    5     5     5    5    3     3  5     5     5      5
L     5    5     5     5    5    3     3  5     3     5      5
Bilateral lower extremity exam is somewhat limited due to pain.
He endorses back pain with any movement of his lower 
extremities.
He has left foot drop at baseline.
Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: B  T  Br  Pa  Ac
Right     2+ 2+ 2+  2+  2+
Left      2+ 2+ 2+  2+  2+

Propioception intact

==============
AT DISCHARGE:
==============
GENERAL: Alert, oriented, no acute distress. Unable to speak but 
mouths words, writes to communicate
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not elevated, no LAD
LUNGS: Rhonchorous breath sounds throughout, diminished breath 
sounds at bases
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
GU: No foley
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
SKIN: No lesions.
NEURO: A&O x3. CN II-XII intact. Sensation, strength intact. 
ACCESS: PIVs

 
Pertinent Results:
=================
LABS ON ADMISSION 
=================
___ 06:45PM BLOOD WBC-15.9* RBC-5.43 Hgb-15.4 Hct-46.9 
MCV-86 MCH-28.4 MCHC-32.8 RDW-15.7* RDWSD-48.7* Plt ___
___ 06:45PM BLOOD Neuts-88.8* Lymphs-5.5* Monos-4.8* 
Eos-0.2* Baso-0.1 Im ___ AbsNeut-14.15* AbsLymp-0.88* 
AbsMono-0.77 AbsEos-0.03* AbsBaso-0.02
___ 06:45PM BLOOD ___ PTT-30.2 ___
___ 06:45PM BLOOD Glucose-109* UreaN-17 Creat-0.8 Na-137 
K-5.5* Cl-101 HCO3-23 AnGap-19
___ 08:00AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.9

===================
LABS ON DISCHARGE 
===================
___ 03:35AM BLOOD WBC-17.2* RBC-3.13* Hgb-8.4* Hct-27.9* 
MCV-89 MCH-26.8 MCHC-30.1* RDW-17.0* RDWSD-55.7* Plt ___
___ 04:08AM BLOOD Neuts-81.0* Lymphs-8.0* Monos-7.3 Eos-2.7 
Baso-0.2 Im ___ AbsNeut-15.52* AbsLymp-1.54 AbsMono-1.40* 
AbsEos-0.51 AbsBaso-0.04
___ 03:35AM BLOOD ___ PTT-33.9 ___
___ 03:35AM BLOOD Glucose-111* UreaN-36* Creat-0.6 Na-136 
K-5.3* Cl-101 HCO3-24 AnGap-16
___ 03:35AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.2

===============
PERTINENT LABS 
===============
___ ALT-14 AST-22 LD(LDH)-263* AlkPhos-114 TotBili-0.3
___ CK-MB-<1 cTropnT-<0.01 proBNP-689
___ CK-MB-2 cTropnT-<0.01
___ TSH-3.4

=============
MICRO
==============
___ 10:44 am BRONCHOALVEOLAR LAVAGE
GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

RESPIRATORY CULTURE (Final ___: 
>100,000 CFU/mL Commensal Respiratory Flora. 

___ 7:01 am MRSA SCREEN      Source: Nasal swab. 
MRSA SCREEN (Final ___:    No MRSA isolated.

___ 8:46 am URINE      Source: Catheter. 
URINE CULTURE (Final ___: ___.    
>100,000 CFU/mL. 
       
___ BLOOD CULTURE No growth final  
___ BLOOD CULTURE No growth final 

___ 6:45 pm URINE
URINE CULTURE (Final ___: 
___.    >100,000 CFU/mL. 
GRAM POSITIVE COCCUS(COCCI).    >100,000 CFU/mL. 

SESITIVITIES: MIC expressed ___ MCG/ML
________________________________________________________
                             ___ ___
                             |   
AMIKACIN--------------   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   128 R
PIPERACILLIN/TAZO-----   <=4 S
TRIMETHOPRIM/SULFA----     2 S

___ 4:49 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    >100,000 CFU/mL. 
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     8 I
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

============
CARDIOLOGY 
============
+ ___ EKG
Atrial fibrillation, mean ventricular rate 78. Low QRS voltage 
___ the limb leads. Right bundle-branch block. Diffuse 
non-diagnostic repolarization abnormalities. Compared to the 
previous tracing of ___ cardiac rhythm is now atrial 
fibrillation. 
Intervals                      Axes 
Rate PR  QRS QT QTc (___)   P QRS T 
78   ___               0 72 63 
 
+ ___ TTE 
The left atrium is normal ___ size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF >55%). Due to suboptimal image quality, 
regional function could not be fully assessed. The right 
ventricular cavity is mildly diated with borderline normal free 
wall function. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are grossly 
normal with trivial mitral regurgitation There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal global systolic function. 
Mildly right ventricular cavity dilation with low normal free 
wall motion. Mild pulmonary hypertension.  

============
IMAGING
============
CT Chest completed at an outside hospital is significant for T10 

fracture.

___ CHEST (PORTABLE AP) Study Date of ___ 7:11 AM 
Heart size is prominent but stable.  There is a new moderate 
size left pleural effusion and left retrocardiac opacity. Right 
lung is clear. There are no pneumothoraces.  Known fracture at 
the level of the lower thoracic spine is better seen on the 
prior CT scan. 
  
CHEST (PORTABLE AP) Study Date of ___ 5:58 ___ Feeding 
tube tip is ___ the right lower lobe, it should pulled out. 

CHEST (PORTABLE AP) Study Date of ___ 4:02 ___ 
___ comparison with the study of ___, the malpositioned 
Dobhoff tube s been removed.  A new nasogastric tube is now ___ 
place with the tip ___ the mid to upper stomach.  The side-port 
is close to the esophagogastric junction, and the tube should be 
pushed forward about 5-8 cm if clinically possible. Continued 
opacification at the left base silhouetting the hemidiaphragm, 
consistent with moderate left pleural effusion and underlying 
compressive atelectasis.  Cardiac silhouette is enlarged and 
there is probably mild elevation of pulmonary venous pressure. 

CTA CHEST  Study Date of ___ 2:34 AM 
1. No pulmonary embolus. 
2. Extensive mucous plugging ___ the left mainstem bronchus, 
resulting ___ 
near-complete collapse of the left lung, new from ___. 
3. Small bilateral pleural effusions are increased from ___. 
4. Known T10 Chance fracture.  Mildly displaced T10 and T11 
spinous process fractures. 

CHEST (PORTABLE AP) Study Date of ___ 10:09 AM 
IMPRESSION:  
Compared to chest radiographs ___ through ___ and 
chest CTA 02:51 today.  
  
Chest CTA showed complete collapse of the left lung and moderate 
left leural effusion.  Left upper lobe has re-expanded.  Lower 
lobe is still ollapsed and small bilateral pleural effusions 
remain.  Substantial telectasis and the right lower lobe is 
worse today than it was on ___.  No pneumothorax.  Heart 
size normal. ET tube ___ standard placement.  Nasogastric 
drainage tube passes into the stomach and out of view. 

CHEST (PORTABLE AP) Study Date of ___ 7:52 ___ 
No new airspace consolidation to suggest pneumonia. Suspected 
recurrence of partial left upper lobe atelectasis, but layering 
effusion should be considered ___ the differential. Interval 
improvement ___ the bilateral lower lobe atelectasis. Persistent 
small left-sided pleural effusion. 

CHEST (PORTABLE AP) Study Date of ___ 12:28 AM 
IMPRESSION:  
___ comparison with the study of ___, there is now 
substantial opacification of the left hemithorax with shift of 
the mediastinum to this side, consistent with mucous plug 
causing collapse of the left lower lobe. 
Subsequent study shows re-expansion of the left lung. 
Endotracheal tube tip lies approximately 3 cm above the carina.  
Right lung is clear. 

CHEST (PORTABLE AP) Study Date of ___ 4:57 AM 
___ comparison with the earlier study of this date, there has 
been some 
re-expansion of the left lower lobe with reduction ___ the shift 
of the mediastinum to the left.  This presumably represents 
expectoration of a mucous plug ___ or interval interventional 
procedure. The tip of the endotracheal tube now lies 
approximately 6 cm above the carina. Otherwise little change. 

MR CERVICAL SPINE W/O CONTRAST Study Date of ___ 10:27 AM 

IMPRESSION: 
1. Acute transverse fracture extending along the inferior 
endplate of the T10 vertebral level extending to all 3 columns 
with associated edema and concern for anterior and posterior 
ligamentous injury. 
2. Moderate multilevel degenerative changes, most notable at the 
C5-C6 vertebral level with deformation remodeling of the spinal 
cord and moderate-to-severe neural foraminal stenosis. However 
there is no acute cord signal abnormality ___ the visualized 
cord. 
3. Bilateral pleural effusions, right greater than left. 

SPINAL FLUORO WITHOUT RADIOLOGIST Study Date of ___ 1:09 
___ 
Multiple fluoroscopic images show steps ___ a posterior T7-T12 
fusion.  Further information can be gathered from the operative 
report. 

T-SPINE ___ O.R. Study Date of ___ 1:09 ___ 
Multiple fluoroscopic images show steps ___ a posterior T7-T12 
fusion.  Further information can be gathered from the operative 
report. 

CT OF THE NECK W CONTRAST: ___
IMPRESSION: 
1. Midline tracheostomy with minimal nonspecific subcutaneous 
emphysema along left margin. 
2. Paraseptal and centrilobular emphysema within the lung apices 
with nonhemorrhagic pleural effusions partially imaged, left 
greater than right. Pleural effusions appear to have been 
present on examination dated ___. 

CHEST (PORTABLE AP) Study Date of ___ 
Tracheostomy tube, spinal hardware is again seen.  There has 
been worsening of the consolidation and opacification of the 
left lung since the prior study. This may be due to a 
combination of large pleural effusion and consolidation. There 
is some volume loss on the left.  There is mild pulmonary edema 
within the visualized right lung.  No pneumothoraces are seen.

CHEST (PORTABLE AP) Study Date of ___
Severe left lower lobe atelectasis has not improved.  Only a 
small portion of the left upper lobe is partially aerated.  New 
consolidation has developed at the right lung base company by 
least small right pleural effusion. 
Heart size is indeterminate, severely shifted to the left.  No 
pneumothorax. 
Tracheostomy tube midline.  Right PIC line passes at at least as 
far as the mid SVC, but the tip is partially obscured by spinal 
hardware. 

 
Brief Hospital Course:
Mr. ___ was transferred from to ___ ED after  sustaining a 
T10 fracture s/p fall. He was admitted to the neurosurgery 
service under Dr. ___. 

# T10 fracture
He was maintained on flat bed rest with logroll precautions and 
pain regimen was optimized. He underwent pre-op work up and was 
taken to the OR on ___ with Dr. ___ Dr. ___. His 
case was uncomplicated and a JP drain was left ___ place 
postoperatively. Post operatively his care was transferred to 
Dr. ___. He remained intubated and was transferred back to 
the trauma SICU for further care.  JP drain was removed on 
___ without difficulty. He should follow up with 
neurosurgery week of ___, should have CT of T/L spine prior to 
appointment

# Respiratory
The patient was evaluated by Speech & Swallow given his recent 
hospitalization for aspiration pneumonia.  On ___, the patient 
required increased O2 to maintain saturation of >92%.  He was 
given nebulizers and respiratory therapy assisted with 
suctioning and chest ___.  The patient endorsed bilateral flank 
pain at the level of T9/T10; he was given lidocaine patches and 
started on gabapentin for pain.  He was transferred to the ___ 
for closer monitoring of his respiratory status. His respiratory 
status improved and he was weaned to O2 via nasal cannula. On 
___ his respiratory status began to decline for a second time 
therefore he was intubated on and a bronchoscopy was performed 
to remove a large mucus plug. He remained intubated until his 
scheduled OR case on ___. Postoperatively, the patient did 
not tolerate extubation and remained intubated. He underwent 
bronchoscopy on ___. 
Tracheostomy was placed on ___ however post-procedure the 
patient had elevated trach pressures. Over the weekend on 
___ the patient remained stable, remains on ventilator, but 
trach pressures normalized. From ___ the patient underwent 
daily chest radiographs to evaluate pulmonary status which 
showed stable moderate left pleural effusion with subsequent 
retrocardiac atelectasis, persistent pulmonary edema.  On 
arrival to the medical ICU on ___ he was weaned from vent and 
placed on trach mask.  He generally tolerated this well, but CXR 
on ___ showed near collapse of the left lung. He was 
reconnected to ventilator. Bronchoscopy was performed on both 
___ and ___ with significant of mucous removed and rapid 
improvement ___ his respiratory function. He was placed back on 
the trach mask after bronchoscopy, and he remained stable from a 
respiratory perspective. 
 
# Infection
The patient had an elevated WBC count to 23.2 on ___.  He 
was pancultured; urinalysis was concerning for UTI. He was 
started empirically on levaquin for UTI as well as presumed 
pneumonia.  His WBC count trended down on ___ & ___. 
Urine culture resulted with providencia Stuartii; he continued 
on cefepime and vancomycin. Antibiotics ended on ___. Patient 
remained stable. His white count was noted to rise again over 
___ to as high as 19. Urine culture grew Pseudomonas. Given 
his x-ray findings as above, there was also a concern for 
ventilator associated pneumonia. He was initiated on an 8 day 
course of vancomycin and cefepime on ___, which should finish 
on ___.

# Dysphagia
The patient reports a history of recurrent aspiration pneumonia 
with recent prolonged hospitalization.  He was evaluated by 
Speech & Swallow who recommended the patient remain NPO.  NGT 
was placed on ___ and he continued on tube feedings.  PEG was 
placed on ___.  He tolerated tube feeds well. 

#Thrombocytosis
Of note, patient had thrombocytosis, which increased over the 
course of his hospitalization. This was felt to be 
multifactorial, with baseline thrombocytosis related to 
underlying asplenia, and increasing thrombocytosis reactive to 
infection and recent surgery. At the time of discharge, 
platelets were 792. If they continue to increase despite 
antibiotics, patient should follow up with hematology.

#Afib: ___ noted to be ___ AFib so cardiology was consulted for 
management recs. CCU c/s called, suspect drive ___ post-op 
state, ongoing resp failure, ongoing infections, or chronic lung 
disease. TTE obtained, showing Mild LVH. Normal LV function. 
Mildly dilated RV, borderline normal RV systolic function. Mild 
PA systolic hypertension. Per cardiology, decisison made to 
continue anticoagulation ___ acute setting given going to ___, 
not very mobile, at increased risk for DVT. He is at lower 
bleeding risk (HASBLED 1). Will require titration of warfarin 
for INR at rehab. INR on ___ was 2.0.  He was ___ sinus rhythm 
for most of the MICU stay.  He will need cardiology and PCP 
follow up regarding decision about need for long term 
anticoagulation.

#Urinary Retention: 
Hx of prostate cancer, and earlier had urinary retention. 
Urology was consulted, and felt that he still had prostate 
cancer that was compressing foley. Coude ___ place and now doing 
better and follow-up as outpatient with urology.

ACCESS: PICC R ARM PLACED ___
Interval placement of a right PICC line whose tip projects over 
the cavoatrial junction.  The tip of the endotracheal tube 
projects over the mid thoracic trachea.  A gastric tube extends 
below the level the diaphragms but beyond the field of view of 
this radiograph.  Partially evaluated thoracic spinal hardware 
is present.  

ANTIBIOTICS RECIEVED: 
Levofloxicin (___)  
Vanc ___, and ___
Cefepime ___ and ___  
Flagyl (___)

TRANSITIONAL ISSUES:
====================
MEDS: 
- Started warfarin for anticoagulation; please uptitrate 
warfarin for INR goal ___.
- Will complete an 8 day course of Vancomycin and Cefepime on 
___ for pneumonia/UTI
- Seroquel ___ mg BID for agitation, anxiety 
- Albuterol/Ipratropium for resp distress 
GENERAL CARE: 
- Chest ___ TID, focused on left side
- NOTE! if urinary retention, please place coude catheter 
- MRSA Screen ___ negative 
- Access with PICC placed ___
OUTPATIENT FOLLOW UP 
- f/u platelets as an outpatient
- f/u with NSGY week of ___, should have CT of T/L spine prior 
to appointment
- f/u with urology
- Consider hematology consultation for thrombocytosis if this 
does not improve after treatment of infection.
- Continue monitoring on telemetry
- f/u with cardiology regarding need for long term 
anticoagulation
- Please check labwork ___ day after discharge to monitor for 
hyperkalemia, INR. K on discharge was 4.4. INR on discharge was 
2.0

CODE STATUS: Full code
CONTACT/HCP: Daughter, ___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. ALPRAZolam 0.25 mg PO TID:PRN anxiety and sleep 
3. Citalopram 20 mg PO DAILY 
4. Lovastatin 20 mg oral DAILY 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 1000 mg PO Q6H:PRN Pain - Moderate  
2.  Albuterol Inhaler ___ PUFF IH Q6H wheeze  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
titrate one BM daily; hold if loose stools  
6.  CefePIME 2 g IV Q12H 
Last day ___  
7.  Docusate Sodium 100 mg PO BID  
8.  Ipratropium Bromide MDI 6 PUFF IH Q6H  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Lidocaine 5% Patch 1 PTCH TD DAILY:PRN chest wall pain  
11.  LORazepam 0.5 mg PO BID  
12.  LORazepam 0.5 mg PO Q4H:PRN agitation  
13.  Miconazole Powder 2% 1 Appl TP TID:PRN Rash  
14.  Ondansetron 4 mg IV Q8H:PRN nausea/vomiting  
15.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
titrate one BM daily; hold if loose stools  
17.  QUEtiapine Fumarate 25 mg PO QAM 
Hold for sedation, RR<12  
18.  QUEtiapine Fumarate 50 mg PO QHS  
19.  Senna 17.2 mg PO HS 
titrate one BM daily; hold if loose stools  
20.  Vancomycin 1250 mg IV Q 12H 
Last day ___  
21.  ___  MD to order daily dose PO DAILY16 
Dose 2.5 mg on ___ and ___ then recheck INR   
22.  Citalopram 20 mg PO DAILY  
23.  Pantoprazole 40 mg PO Q24H  
24.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=======
T10 fracture
Hypoxic respiratory failure
Healthcare associated pneumonia
Urinary tract infection
Atrial fibrillation
Dysphagia
Left lobar collapse
Post-polio syndrome
Prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ On ___ for a fracture ___ your 
spine. You had a back procedure called a laminectomy and fusion 
on ___. After the procedure, you were having difficulty 
breathing, therefore you remained on the breath machine and had 
a procedure called a tracheostomy to held you breath and a PEG 
tube to be able to provide nutrition. You also had a pneumonia 
and UTI and were treated with antibiotics.  

FROM YOUR NEUROSURGERY TEAM: 
Your incision is closed with staples or sutures. Your staples 
were removed. 
* Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
*  We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
*  You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
*  No driving while taking any narcotic or sedating medication. 
*  No contact sports until cleared by your neurosurgeon. 
*  Do  NOT smoke. Smoking can affect your healing and fusion.
 
When to Call Your Doctor at ___ for:
* Severe pain, swelling, redness or drainage from the incision 
site. 
* Fever greater than 101.5 degrees Fahrenheit
* New weakness or changes ___ sensation ___ your arms or legs.

 
Followup Instructions:
___